US04876251
To a solution of 5.0 g 5-oxo-2-tetrahydrofurancarboxylic acid in 100 ml dichloromethane 0.3 ml concentrated sulfuric acid and then an excess amount of isobutene (about 50 ml) were added, while maintaining the solution at -60° C. The reaction mixture was kept standing in a tightly seald flask at room temperature overnight, and thereafter it was poured into a cooled saturated aqueous solution of sodium bicarbonate, and the dichloromethane layer was separated. After washing with water and drying (over Na2SO4), the dichloromethane layer was concentrated to yield t-butyl 5-oxo-2- tetrahydrofurancarboxylate in the form of a colorless oily substance.

reactant | 5-oxo-2-tetrahydrofurancarboxylic acid | 5.0 g | O=C1CCC(O1)C(=O)O | C5H6O4
reactant | isobutene | about 50 ml | C=C(C)C | C4H8
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | t-butyl 5-oxo-2- tetrahydrofurancarboxylate | O=C1CCC(O1)C(=O)OC(C)(C)C | C9H14O4
